US07632850B2
7.1. (4′-fluoro-1,1′-biphenyl-4-yl)acetonitrile
The method described in Example 3 (step 3.2.) is used. Starting from 4.12 g (32.48 mmol) of (4-bromophenyl)acetonitrile, 5 g (35.73 mmol) of 4-fluorophenylboronic acid, 32.48 ml (64.96 mmol) of aqueous sodium carbonate (2M) solution and 1.24 g (1.07 mmol) of palladium tetrakis(triphenylphosphine), 3.3 g of pure product are obtained in the form of a white solid, following chromatography on silica gel, eluting with a 15/85 mixture of ethyl acetate and cyclohexane.

reactant | (4-bromophenyl)acetonitrile | 32.48 mmol, 4.12 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | 4-fluorophenylboronic acid | 35.73 mmol, 5 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 64.96 mmol, 2M, 32.48 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium tetrakis(triphenylphosphine) | 1.07 mmol, 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | (4′-fluoro-1,1′-biphenyl-4-yl)acetonitrile | FC1=CC=C(C=C1)C1=CC=C(C=C1)CC#N | C14H10FN
